US05220042
1.3 Grams of 1,4-dimethoxy-2,5-bis(methoxymethoxy)-6-butyl-3-{5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)-4-hydroxyphenyl]pentyl}benzene was dissolved in 50 ml of methanol, to this solution was added an excess amount of diazomethane-ether solution was added and the reaction mixture was stirred for 3 hours. The reaction mixture was concentrated to obtain 1.3 g of 1,4-dimethoxy-2,5-bis(methoxymethoxy)-6-butyl-3-{5-[2,4,5-trimethoxy-3,6-bis(methoxymethoxy)phenyl]pentyl}benzene. Colorless oily substance.

reactant | 1,4-dimethoxy-2,5-bis(methoxymethoxy)-6-butyl-3-{5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)-4-hydroxyphenyl]pentyl}benzene | COC1=C(C(=C(C(=C1CCCC)OCOC)OC)CCCCCC1=C(C(=C(C(=C1OCOC)OC)O)OCOC)OC)OCOC | C33H52O13
reactant | methanol | 50 ml | CO | CH4O
product | 1,4-dimethoxy-2,5-bis(methoxymethoxy)-6-butyl-3-{5-[2,4,5-trimethoxy-3,6-bis(methoxymethoxy)phenyl]pentyl}benzene | 1.3 g | COC1=C(C(=C(C(=C1CCCC)OCOC)OC)CCCCCC1=C(C(=C(C(=C1OCOC)OC)OC)OCOC)OC)OCOC | C34H54O13
